US09169254B2
Benzoyl isothiocyanate (37.8 mg, 0.23 mmol) was added to a solution of 8-[2-(2,6-dimethyl-4-methylamino-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (100 mg, 0.21 mmol) in acetone (3 ml) in a nitrogen stream. The mixture was heated under reflux for one hour and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane-methanol) to give 3-benzoyl-1-(3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-1-methyl-thiourea (140 mg).

reactant | Benzoyl isothiocyanate | 0.23 mmol, 37.8 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 8-[2-(2,6-dimethyl-4-methylamino-phenyl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.21 mmol, 100 mg | CC1=C(C(=CC(=C1)NC)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1 | C25H38N4O3S
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-benzoyl-1-(3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-1-methyl-thiourea | 140 mg | C(C1=CC=CC=C1)(=O)NC(N(C)C1=CC(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)=S | C33H43N5O4S2
